US06479673B1
A mixture of isobutyl (R)-lactate (73 g, 0,5 mol, Merck) and 3,4-dihydro-2H-pyran (70 g, 0,83 mol, Merck) was treated with 5M hydrogen chloride in dimethylformamide (4 ml) and set aside at ambient temperature overnight in calcium chloride protected 250 ml round-bottom flask. Silver oxide (15 g) was added, the mixture stirred magnetically for 2 hours and then filtered. The product was isolated by distillation (13 Pa, b.p. 94-96° C.) to provide isobutyl 2-0-tetrahydropyranyl-(R)-lactate (102.5 g, 89%) as a colorless oil.

reactant | isobutyl (R)-lactate | 0,5 mol, 73 g | C([C@H](O)C)(=O)OCC(C)C | C7H14O3
reactant | 3,4-dihydro-2H-pyran | 0,83 mol, 70 g | O1CCCC=C1 | C5H8O
reactant | hydrogen chloride | 5M | Cl | ClH
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | calcium chloride | [Cl-].[Ca+2].[Cl-]
catalyst | Silver oxide | 15 g | [Ag]=O
product | isobutyl 2-0-tetrahydropyranyl-(R)-lactate | 102.5 g, 89% | O1C(CCCC1)[C@](C(=O)OCC(C)C)(O)C | C12H22O4
